US04795487
N,N-Dimethyl-(3-formyl-2,4,6-trimethylphenyl) acetic acid amide was prepared by the formylation of N,N-dimethyl mesitylacetic acid amide with dichloromethyl methyl ether using standard conditions.

reactant | N,N-dimethyl mesitylacetic acid amide | CN(C(CC1=C(C=C(C=C1C)C)C)=O)C | C13H19NO
reactant | dichloromethyl methyl ether | COC(Cl)Cl | C2H4Cl2O
product | N,N-Dimethyl-(3-formyl-2,4,6-trimethylphenyl) acetic acid amide | CN(C(CC1=C(C(=C(C=C1C)C)C=O)C)=O)C | C14H19NO2
